US07087601B2
Utilizing the general procedure outlined in the synthesis of 2-[4-(6-bromopyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole, 2-[3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazole (200 mg, 0.57 mmol) was reacted with 5-bromo-2-fluoropyridine (59 μL, 0.57 mmol) to afford the desired 2-[4-(6-fluoropyridin-3-yl)-3-methoxyphenyl]-1,3-benzoxazole as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 8.42 (s, 1H), 8.07–8.00 (m, 1H), 7.97–7.94 (m, 1H), 7.89 (s, 1H), 7.82–7.79 (m, 1H), 7.64–7.59(m, 1H), 7.48–7.45 (d, 1H), 7.41–7.38 (m, 1H), 7.03–6.99 (m, 1H), 3.98 (s, 3H). MS (ESI) 321 (M+H)+.

reactant | 2-[4-(6-bromopyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole | BrC1=CC=CC(=N1)C1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC | C19H13BrN2O2
reactant | 2-[3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazole | 0.57 mmol, 200 mg | COC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)C=1OC2=C(N1)C=CC=C2 | C20H22BNO4
reactant | 5-bromo-2-fluoropyridine | 0.57 mmol, 59 μL | BrC=1C=CC(=NC1)F | C5H3BrFN
product | 2-[4-(6-fluoropyridin-3-yl)-3-methoxyphenyl]-1,3-benzoxazole | FC1=CC=C(C=N1)C1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC | C19H13FN2O2
